US06465687B1
To a solution of 3-chloro-4-hydroxyphenylacetic acid (2.5 g) in glacial acetic acid (35 mL) was added 0.8 mL of neat bromine carefully while stirring. The mixture was stirred in dark at ambient temperature for 51 h. The resulting mixture was diluted with water, extracted with ethyl acetate, dried and concentrated in vacuo to afford 3-bromo-5-chloro-4-hydrox-yphenylacetic acid. This crude product was dissolved in methanol (15 mL), treated with concentrated sulfuric acid (1 mL) carefully, stirred at reflux for 18 h. Cooled reaction mixture was concentrated under reduced pressure, diluted with water carefully, extracted with dichloromethane. The combined organic layers were dried and concentrated. Flash column chromatography on silica gel with ethyl acetate/hexane (0-50% gradient elution) afforded 3-bromo-5-chloro-4-hydroxyphenylacetic acid methyl ester (2.5 g, 68%).

reactant | 3-chloro-4-hydroxyphenylacetic acid | 2.5 g | ClC=1C=C(C=CC1O)CC(=O)O | C8H7ClO3
reactant | bromine | 0.8 mL | BrBr | Br2
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-bromo-5-chloro-4-hydrox-yphenylacetic acid | BrC=1C=C(C=C(C1O)Cl)CC(=O)O | C8H6BrClO3
